US09284323B2
To a stirred solution of trimethylacetyl chloride (0.17 mL, 1.36 mmol) and 4-(Dimethylamino)pyridine (55 mg, 0.45 mmol) in pyridine (2.4 mL, 29.48 mmol), 2-(1-chloro-3-methylnaphthalen-2-yl)-2-(1,1,1-trifluoro-2-methylpropan-2-yloxy)ethanol (157 mg, 0.45 mmol) in CH2Cl2 (2.4 mL) was added at 0° C. The reaction mixture was allowed to warm to room temperature overnight. The mixture was quenched with water and concentrated and purified by flash column chromatography (silica gel, 0 to 20% ethyl acetate/hexanes) to give 2-(1-chloro-3-methylnaphthalen-2-yl)-2-(1,1,1-trifluoro-2-methylpropan-2-yloxy)ethyl pivalate. 1H-NMR: 400 MHz, (CDCl3) δ 8.26 (d, J=8.4 Hz, 1H), 7.73 (d, J=8.0 Hz, 1H), 7.58-7.48 (m, 3H), 6.05 (dd, J=8.4, 5.2 Hz, 1H), 4.50 (dd, J=11.2, 8.4 Hz, 1H), 4.21 (dd, J=11.2, 4.8 Hz, 1H), 2.73 (s, 3H), 1.43 (s, 3H), 1.19 (s, 3H), 1.16 (s, 9H).

reactant | trimethylacetyl chloride | 1.36 mmol, 0.17 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | pyridine | 29.48 mmol, 2.4 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-(1-chloro-3-methylnaphthalen-2-yl)-2-(1,1,1-trifluoro-2-methylpropan-2-yloxy)ethanol | 0.45 mmol, 157 mg | ClC1=C(C(=CC2=CC=CC=C12)C)C(CO)OC(C(F)(F)F)(C)C | C17H18ClF3O2
catalyst | 4-(Dimethylamino)pyridine | 0.45 mmol, 55 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 2.4 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-chloro-3-methylnaphthalen-2-yl)-2-(1,1,1-trifluoro-2-methylpropan-2-yloxy)ethyl pivalate | C(C(C)(C)C)(=O)OCC(OC(C(F)(F)F)(C)C)C1=C(C2=CC=CC=C2C=C1C)Cl | C22H26ClF3O3
